US09102622B2
N-(3-Phenoxypropyl)saccharin (83.4).
The title compound was synthesized analogously to 83.8 (see experimental below), using a solution of saccharin (92 mg, 0.5 mmol) in DMF (anhydrous, 4 mL), NaH (60% dispersion in mineral oil, 21 mg, 0.52 mmol) and a solution of 3-phenoxypropyl bromide (130 mg, 0.6 mmol) in anhydrous DMF (1 mL). The crude obtained after workup was purified by flash column chromatography on silica gel (25% ethyl acetate-petroleum ether) to give 83.4 as a white solid (m p 83-86° C.) in 65% yield (130 mg). 1H NMR (500 MHz, CDCl3) δ 8.08 (dd, J=7.5 Hz, J=1.5 Hz, 1H), 7.95 (dd, J=7.5 Hz, J=1.5 Hz 1H), 7.89 (td, J=7.5 Hz, J=1.5 Hz, 1H), 7.85 (td, J=7.5 Hz, J=31.5 Hz, 1H), 7.30 (t, J=8.0 Hz, 2H), 6.97 (t, J=8.0 Hz, 1H), 6.93 (d, J=8.0 Hz, 2H), 4.11 (t, J=6.2 Hz, 2H), 4.04 (t, J=7.1 Hz, 2H), 2.36 (quintet, J=7.5 Hz, 2H).

reactant | saccharin | 0.5 mmol, 92 mg | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
reactant | NaH | 0.52 mmol, 21 mg | [H-].[Na+]
reactant | 3-phenoxypropyl bromide | 0.6 mmol, 130 mg | O(C1=CC=CC=C1)CCCBr | C9H11BrO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(3-Phenoxypropyl)saccharin | O(C1=CC=CC=C1)CCCN1S(=O)(=O)C2=CC=CC=C2C1=O | C16H15NO4S
